** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_6

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_6 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=97e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=2e-6 W=180e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=4e-6 W=6e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=512e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=35e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=442e-6
mNormalTransistorNmos9 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=68e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=2e-6 W=180e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=586e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=140e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=4e-6 W=512e-6
mNormalTransistorPmos14 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=484e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=59e-6
mNormalTransistorPmos16 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=484e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=548e-6
mNormalTransistorPmos18 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=6e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_6

** Expected Performance Values: 
** Gain: 138 dB
** Power consumption: 8.14601 mW
** Area: 13201 (mu_m)^2
** Transit frequency: 65.7821 MHz
** Transit frequency with error factor: 65.668 MHz
** Slew rate: 89.7701 V/mu_s
** Phase margin: 56.7229°
** CMRR: 99 dB
** negPSRR: 100 dB
** posPSRR: 231 dB
** VoutMax: 3.03001 V
** VoutMin: 0.320001 V
** VcmMax: 3.90001 V
** VcmMin: 0.160001 V


** Expected Currents: 
** NormalTransistorNmos: 13.4181 muA
** NormalTransistorPmos: -37.2409 muA
** NormalTransistorPmos: -88.3689 muA
** DiodeTransistorNmos: 172.951 muA
** NormalTransistorNmos: 172.951 muA
** NormalTransistorNmos: 172.951 muA
** NormalTransistorPmos: -345.9 muA
** NormalTransistorPmos: -172.95 muA
** NormalTransistorPmos: -172.95 muA
** NormalTransistorNmos: 1124.19 muA
** NormalTransistorNmos: 1124.18 muA
** NormalTransistorPmos: -1124.18 muA
** DiodeTransistorPmos: -1124.18 muA
** DiodeTransistorNmos: 37.2401 muA
** DiodeTransistorNmos: 88.3681 muA
** DiodeTransistorPmos: -13.4189 muA
** NormalTransistorPmos: -13.4189 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.24901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.728001  V
** inputVoltageBiasXXpXX1: 2.46401  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.73201  V
** outVoltageBiasXXnXX0: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.40901  V
** innerTransconductance: 0.150001  V
** inner: 3.73201  V


.END