** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=106e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=4e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=523e-6
mNormalTransistorNmos4 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=8e-6 W=421e-6
mNormalTransistorNmos5 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=2e-6 W=105e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=2e-6 W=105e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=8e-6 W=421e-6
mNormalTransistorPmos8 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=40e-6
mNormalTransistorPmos9 out ibias sourcePmos sourcePmos pmos4 L=4e-6 W=399e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=240e-6
mNormalTransistorPmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=240e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=79e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_1

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 6.59201 mW
** Area: 11095 (mu_m)^2
** Transit frequency: 69.2881 MHz
** Transit frequency with error factor: 69.2228 MHz
** Slew rate: 66.5647 V/mu_s
** Phase margin: 55.004°
** CMRR: 106 dB
** negPSRR: 108 dB
** posPSRR: 232 dB
** VoutMax: 4.25 V
** VoutMin: 0.150001 V
** VcmMax: 3.53001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -101.533 muA
** NormalTransistorNmos: 100.265 muA
** NormalTransistorNmos: 100.266 muA
** NormalTransistorNmos: 100.267 muA
** NormalTransistorNmos: 100.266 muA
** NormalTransistorPmos: -200.528 muA
** NormalTransistorPmos: -100.264 muA
** NormalTransistorPmos: -100.264 muA
** NormalTransistorNmos: 996.438 muA
** NormalTransistorPmos: -996.437 muA
** DiodeTransistorNmos: 101.534 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.68601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack1Load1: 0.150001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.21701  V


.END