** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_6

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_6 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=10e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=52e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=242e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=99e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=71e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=100e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=100e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=1e-6 W=99e-6
mNormalTransistorNmos12 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=596e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=193e-6
mNormalTransistorPmos14 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=242e-6
mNormalTransistorPmos15 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=275e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=91e-6
mNormalTransistorPmos17 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=275e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=596e-6
mNormalTransistorPmos19 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=52e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_6

** Expected Performance Values: 
** Gain: 140 dB
** Power consumption: 14.9861 mW
** Area: 5018 (mu_m)^2
** Transit frequency: 72.1921 MHz
** Transit frequency with error factor: 72.122 MHz
** Slew rate: 91.9453 V/mu_s
** Phase margin: 55.004°
** CMRR: 104 dB
** negPSRR: 103 dB
** posPSRR: 115 dB
** VoutMax: 3.09001 V
** VoutMin: 0.390001 V
** VcmMax: 3.96001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 427.661 muA
** NormalTransistorPmos: -61.3269 muA
** NormalTransistorPmos: -130.771 muA
** NormalTransistorNmos: 201.919 muA
** NormalTransistorNmos: 201.918 muA
** NormalTransistorNmos: 201.919 muA
** NormalTransistorNmos: 201.918 muA
** NormalTransistorPmos: -403.836 muA
** NormalTransistorPmos: -201.918 muA
** NormalTransistorPmos: -201.918 muA
** NormalTransistorNmos: 1953.7 muA
** NormalTransistorNmos: 1953.7 muA
** NormalTransistorPmos: -1953.69 muA
** DiodeTransistorPmos: -1953.69 muA
** DiodeTransistorNmos: 61.3261 muA
** DiodeTransistorNmos: 130.772 muA
** DiodeTransistorPmos: -427.66 muA
** NormalTransistorPmos: -427.66 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.16201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.797001  V
** out: 2.5  V
** outFirstStage: 0.601001  V
** outInputVoltageBiasXXpXX1: 2.52201  V
** outSourceVoltageBiasXXpXX1: 3.76101  V
** outVoltageBiasXXnXX0: 1.06101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.560001  V
** innerTransistorStack1Load1: 0.237001  V
** innerTransistorStack2Load1: 0.237001  V
** sourceTransconductance: 3.26601  V
** innerTransconductance: 0.196001  V
** inner: 3.76101  V


.END