** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=19e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=103e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=197e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=41e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=418e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=194e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=501e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=555e-6
mNormalTransistorNmos10 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=103e-6
mNormalTransistorNmos11 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=390e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=296e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=74e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=74e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=161e-6
mNormalTransistorPmos16 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=418e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=74e-6
mNormalTransistorPmos18 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=74e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=139e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=139e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=41e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_5

** Expected Performance Values: 
** Gain: 104 dB
** Power consumption: 13.5541 mW
** Area: 9880 (mu_m)^2
** Transit frequency: 63.6501 MHz
** Transit frequency with error factor: 63.6076 MHz
** Slew rate: 50.9905 V/mu_s
** Phase margin: 55.004°
** CMRR: 107 dB
** VoutMax: 3 V
** VoutMin: 0.200001 V
** VcmMax: 5.14001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorNmos: 187.505 muA
** NormalTransistorNmos: 240.376 muA
** NormalTransistorPmos: -98.6599 muA
** NormalTransistorPmos: -169.132 muA
** NormalTransistorPmos: -98.6599 muA
** NormalTransistorPmos: -169.132 muA
** DiodeTransistorNmos: 98.6591 muA
** NormalTransistorNmos: 98.6591 muA
** NormalTransistorNmos: 140.944 muA
** NormalTransistorNmos: 140.944 muA
** NormalTransistorNmos: 70.4721 muA
** NormalTransistorNmos: 70.4721 muA
** NormalTransistorNmos: 1934.75 muA
** NormalTransistorPmos: -1934.74 muA
** DiodeTransistorPmos: -1934.74 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -187.504 muA
** NormalTransistorPmos: -187.505 muA
** DiodeTransistorPmos: -240.375 muA
** DiodeTransistorPmos: -240.376 muA


** Expected Voltages: 
** ibias: 1.11701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 3.34801  V
** out: 2.5  V
** outFirstStage: 0.607001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.71701  V
** outSourceVoltageBiasXXpXX2: 4.17401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.508001  V
** out1: 0.617001  V
** sourceGCC1: 4.18401  V
** sourceGCC2: 4.18401  V
** sourceTransconductance: 1.94501  V
** inner: 3.71201  V


.END