** Name: SymmetricalOpAmp114

.MACRO SymmetricalOpAmp114 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=8e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=38e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=11e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=51e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=125e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=10e-6 W=128e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=125e-6
mNormalTransistorNmos9 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=3e-6 W=80e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=9e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=208e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=38e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=316e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=584e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=584e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=316e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=225e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=60e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=60e-6
mNormalTransistorPmos20 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=109e-6
mNormalTransistorPmos21 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=109e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp114

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 4.49601 mW
** Area: 7861 (mu_m)^2
** Transit frequency: 33.1581 MHz
** Transit frequency with error factor: 33.1581 MHz
** Slew rate: 46.5074 V/mu_s
** Phase margin: 63.0254°
** CMRR: 136 dB
** negPSRR: 120 dB
** posPSRR: 62 dB
** VoutMax: 4.25 V
** VoutMin: 0.730001 V
** VcmMax: 4.81001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** NormalTransistorNmos: 11.2001 muA
** NormalTransistorNmos: 99.5511 muA
** NormalTransistorPmos: -50.0789 muA
** NormalTransistorPmos: -128.132 muA
** NormalTransistorPmos: -128.133 muA
** NormalTransistorPmos: -128.132 muA
** NormalTransistorPmos: -128.133 muA
** NormalTransistorNmos: 256.265 muA
** NormalTransistorNmos: 128.133 muA
** NormalTransistorNmos: 128.133 muA
** NormalTransistorNmos: 236.101 muA
** NormalTransistorNmos: 236.1 muA
** NormalTransistorPmos: -236.1 muA
** NormalTransistorPmos: -236.099 muA
** DiodeTransistorNmos: 236.101 muA
** NormalTransistorPmos: -236.1 muA
** NormalTransistorPmos: -236.099 muA
** DiodeTransistorNmos: 50.0781 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -11.2009 muA
** DiodeTransistorPmos: -99.5519 muA


** Expected Voltages: 
** ibias: 0.615001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 0.675001  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outVoltageBiasXXnXX1: 1.14001  V
** outVoltageBiasXXpXX0: 4.16401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.87401  V
** innerStageBias: 0.270001  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END